US08497270B2
Tert-butyl 2-(benzyloxy)-4-fluorobenzylcarbamate
(2-(Benzyloxy)-4-fluorophenyl)methanamine was dissolved in 1,4-dioxane (22 ml). Water (6 ml) and 1M Na2CO3 solution (55 ml) were added. The reaction mixture was cooled to 0° C. Boc2O was added dropwise. The ensuing mixture was allowed to warm to r.t. and stirred at r.t. for 24 hours.

reactant | (2-(Benzyloxy)-4-fluorophenyl)methanamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)CN | C14H14FNO
reactant | Water | 6 ml | O | H2O
reactant | Na2CO3 | 1M, 55 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 22 ml | O1CCOCC1 | C4H8O2
product | Tert-butyl 2-(benzyloxy)-4-fluorobenzylcarbamate | C(C1=CC=CC=C1)OC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)F | C19H22FNO3
